US05550147
Boron tribromide (1M in dichloromethane; 11 ml) was added to an ice-cooled solution of 1-(4-methoxyphenyl)-5-[4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)pyrazole (1.4 g) in dichloromethane (30 ml). The mixture was stirred at 5° C. for 2 hours and concentrated in vacuo. The residue was triturated in dilute hydrochloric acid. The obtained powder was recrystallized from ethanol to give colorless crystals of 1-(4-hydroxyphenyl)-5-[4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)pyrazole (0.91 g).

reactant | Boron tribromide | 1M, 11 ml | B(Br)(Br)Br | BBr3
reactant | 1-(4-methoxyphenyl)-5-[4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)pyrazole | 1.4 g | COC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)S(=O)(=O)C)C(F)(F)F | C18H15F3N2O3S
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1-(4-hydroxyphenyl)-5-[4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)pyrazole | 0.91 g | OC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)S(=O)(=O)C)C(F)(F)F | C17H13F3N2O3S
